US05500453
A solution of 4.43 g of tetramethylammonium-tert-butyl-tris(p-methoxyphenyl)borate in 50 ml of acetone was added to a solution of 5.00 g of bis(p-tolyl)(p-nitrophenacyl)sulfonium hexafluorophosphate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 2.27 of bis(p-tolyl)(p-nitrophenacyl)sulfonium-tert-butyl-tris(p-methoxyphenyl)borate.

reactant | tetramethylammonium tert-butyl-tris(p-methoxyphenyl)borate | 4.43 g | C[N+](C)(C)C.C(C)(C)(C)[B-](C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC
reactant | bis(p-tolyl)(p-nitrophenacyl)sulfonium hexafluorophosphate | 5.00 g | F[P-](F)(F)(F)(F)F.C1(=CC=C(C=C1)[S+](CC(=O)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)C)C
reactant | water | 200 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | bis(p-tolyl)(p-nitrophenacyl)sulfonium tert-butyl-tris(p-methoxyphenyl)borate | C1(=CC=C(C=C1)[S+](CC(=O)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)C)C.C(C)(C)(C)[B-](C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | InChI=1S/C25H30BO3.C22H20NO3S/c1-25(2,3)26(19-7-13-22(27-4)14-8-19,20-9-15-23(28-5)16-10-20)21-11-17-24(29-6)18-12-21;1-16-3-11-20(12-4-16)27(21-13-5-17(2)6-14-21)15-22(24)18-7-9-19(10-8-18)23(25)26/h7-18H,1-6H3;3-14H,15H2,1-2H3/q-1;+1
